US08664220B2
Step 1: (3-Bromo-phenyl)-phenyl-methanol
Prepared according to the procedure described in Example 25, Step 1, using 3-bromobenzaldehyde and phenylmagnesium bromide.

reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | (3-Bromo-phenyl)-phenyl-methanol | BrC=1C=C(C=CC1)C(O)C1=CC=CC=C1 | C13H11BrO
